US08278319B2
Stage 2: Methyl 2-(1-(3-(trifluoromethyl)phenylsulfonyl)piperidin-2-yl)acetate
A solution of 3-(trifluoromethyl)benzenesulfonyl chloride (1 eq) in dichloromethane (1.6 ml/mmol) was added dropwise to a cooled solution (0° C.) of methyl 2-(piperidin-2-yl)acetate hydrochloride (1.1 eq) in dichloromethane (40 ml/mmol) and triethylamine (2.5 eq). The mixture was stirred for 90 min at 25° C., after which the reaction was completed (thin-layer chromatographic analysis). Hydrogen chloride solution (0.5 mol/l, 2 ml/mmol) was added and the mixture was stirred for 15 min. The organic phase was separated off, washed with water, dried over sodium sulfate and concentrated to small volume under vacuum. Yield: 80%

reactant | 3-(trifluoromethyl)benzenesulfonyl chloride | 1 eq | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | methyl 2-(piperidin-2-yl)acetate hydrochloride | 1.1 eq | Cl.N1C(CCCC1)CC(=O)OC
reactant | triethylamine | 2.5 eq | C(C)N(CC)CC | C6H15N
reactant | Hydrogen chloride | 0.5 mol/l | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl 2-(1-(3-(trifluoromethyl)phenylsulfonyl)piperidin-2-yl)acetate | Yield: 80% | FC(C=1C=C(C=CC1)S(=O)(=O)N1C(CCCC1)CC(=O)OC)(F)F | C15H18F3NO4S
